US08802686B2
(4-Methanesulphonylphenyl)[5-trifluoromethyl-4-(3,3,3-trifluoropropoxy)pyrimidin-2-yl]amine
A solution of 1.00 g (4.63 mmol) of 2,4-dichloro-5-trifluoromethylpyrimidine and 0.68 g (5.99 mmol) of 3,3,3-trifluoro-1-propanol in 12.2 ml of diethyl ether and 12.2 ml of acetonitrile was admixed at 0° C. with stirring in portions with 0.24 g of sodium hydride (55%). The mixture was slowly warmed to room temperature overnight in an ice bath. The mixture was admixed with ice and dilute sodium chloride solution. Extraction was carried out with ethyl acetate (2×). The combined organic phases were dried (Na2SO4), filtered and concentrated by evaporation. This gave 1.50 g of the crude product. 1.03 g of the crude product and 0.59 g (3.48 mmol) of 4-methanesulphonylphenylamine in 24.1 ml of acetonitrile were admixed with 0.87 ml of a 4N solution of hydrogen chloride in dioxane and stirred for 24 hours at 60° C. The mixture was admixed with a small amount of sodium hydrogen carbonate solution and concentrated in a rotary evaporator. The resulting residue was purified by means of HPLC. This gave 0.07 g (0.15 mmol) of the product.

reactant | 2,4-dichloro-5-trifluoromethylpyrimidine | 4.63 mmol, 1.00 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 3,3,3-trifluoro-1-propanol | 5.99 mmol, 0.68 g | FC(CCO)(F)F | C3H5F3O
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | 4-methanesulphonylphenylamine | 3.48 mmol, 0.59 g | CS(=O)(=O)C1=CC=C(C=C1)N | C7H9NO2S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 12.2 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 12.2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 24.1 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (4-Methanesulphonylphenyl)[5-trifluoromethyl-4-(3,3,3-trifluoropropoxy)pyrimidin-2-yl]amine | CS(=O)(=O)C1=CC=C(C=C1)NC1=NC=C(C(=N1)OCCC(F)(F)F)C(F)(F)F | C15H13F6N3O3S
